US07375204B2
1-(Chloromethyl)-4-n-butylbenzene
Thionyl chloride (2.5 ml, 34 mmol) was added to a solution of 4-n-butylbenzyl alcohol (2.0 g, 12 mmol) in ether (25 ml), and this mixture was stirred at room temperature for 3 hours. After concentration of the mixture, excess thionyl chloride was removed by azeotropic distillation with benzene to give the title compound (2.3 g). This compound was used in the following reaction without purification.

reactant | Thionyl chloride | 34 mmol, 2.5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 4-n-butylbenzyl alcohol | 12 mmol, 2.0 g | C(CCC)C1=CC=C(CO)C=C1 | C11H16O
solvent | ether | 25 ml | CCOCC | C4H10O
product | 1-(Chloromethyl)-4-n-butylbenzene | 2.3 g | ClCC1=CC=C(C=C1)CCCC | C11H15Cl
